US09029538B2
1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {4-[(6,7-dimethoxy-quinolin-4-yl)-methylamino]-phenyl}-amide.
This compound was synthesized using 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid and N-(6,7-dimethoxyquinolin-4-yl)-N-methyl-benzene-1,4-diamine by the method described for example 134. mp=199-202° C.; LCMS m/z=570 (M+1); 1H NMR (CDCl3) δ: 10.62 (s, 1H), 8.64 (d, 1H, J=5.0 Hz), 8.60 (s, 1H), 7.50 (d, 2H, J=9.0 Hz), 7.38 (s, 1H), 7.31 (s, 1H), 7.00 (d, 1H, J=5.3 Hz), 6.90 (s, 1H), 6.86 (d, 2H J=8.9 Hz), 4.01 (s, 1H), 4.00 (s, 3H), 3.63 (s, 3H), 3.44 (s, 3H).

reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
reactant | N-(6,7-dimethoxyquinolin-4-yl)-N-methyl-benzene-1,4-diamine | COC=1C=C2C(=CC=NC2=CC1OC)N(C1=CC=C(C=C1)N)C | C18H19N3O2
product | 1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {4-[(6,7-dimethoxy-quinolin-4-yl)-methylamino]-phenyl}-amide | COC=1C=C2C(=CC=NC2=CC1OC)N(C1=CC=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)C | C31H28FN5O5
